US08071651B2
a) (R)-6-Oxaspiro[2.5]octane-1-carboxylic acid
A solution of 3.700 g of (R)-4-benzyl-3-((R)-6-oxaspiro[2.5]-octane-1-carbonyl)oxazolidin-2-one in 20 ml of tetrahydrofuran/water 3:1 is cooled to 0° C. 0.608 g of lithium hydroxide and 1.95 ml of hydrogen peroxide (30% in water) are added to the solution, which is stirred at room temperature for 6 hours. Saturated aqueous sodium thiosulphate solution is added to the reaction mixture, which is then extracted with tert-butyl methyl ether. The aqueous phase is adjusted to pH 2 with 4M HCl and extracted with dichloromethane. The combined extracts are washed with brine, dried with sodium sulphate and evaporated. The title compound is obtained as a colourless liquid and is employed without further purification for the next stage. Rf=0.55 (dichloromethane-methanol-water-acetic acid 150:54:10:1); Rt=2.10 (Gradient I).

reactant | (R)-4-benzyl-3-((R)-6-oxaspiro[2.5]-octane-1-carbonyl)oxazolidin-2-one | 3.700 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)[C@@H]1CC12CCOCC2 | C18H21NO4
reactant | lithium hydroxide | 0.608 g | [OH-].[Li+]
reactant | hydrogen peroxide | 1.95 ml | OO | H2O2
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran water | 20 ml | O1CCCC1.O
product | (R)-6-Oxaspiro[2.5]octane-1-carboxylic acid | [C@H]1(CC12CCOCC2)C(=O)O | C8H12O3
